US07241785B2
A mixture of methyl [3-[3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxy]-1-phenyl-1H-pyrazol-4-yl]acetate (496 mg), 1 N aqueous sodium hydroxide solution (2 ml), tetrahydrofuran (4 ml) and ethanol (4 ml) was stirred at room temperature for 1 hr. 1N Hydrochloric acid (2 ml) was added to the reaction mixture and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The obtained colorless crystals were collected by filtration to give [3-[3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxy]-1-phenyl-1H-pyrazol-4-yl]acetic acid (438 mg, yield 90%), which was then recrystallized from ethanol-water. melting point: 147–148° C.

reactant | methyl [3-[3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxy]-1-phenyl-1H-pyrazol-4-yl]acetate | 496 mg | COC=1C=C(COC2=NN(C=C2CC(=O)OC)C2=CC=CC=C2)C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1 | C31H29N3O6
reactant | sodium hydroxide | 1 N, 2 ml | [OH-].[Na+]
reactant | tetrahydrofuran | 4 ml | O1CCCC1 | C4H8O
reactant | Hydrochloric acid | 1N, 2 ml | Cl | ClH
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | [3-[3-methoxy-4-(5-methyl-2-phenyl-4-oxazolylmethoxy)benzyloxy]-1-phenyl-1H-pyrazol-4-yl]acetic acid | 438 mg, yield 90% | COC=1C=C(COC2=NN(C=C2CC(=O)O)C2=CC=CC=C2)C=CC1OCC=1N=C(OC1C)C1=CC=CC=C1 | C30H27N3O6
